US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-ethoxy-5-trifluoromethyl-benzyl)-amine (210 mg) is dissolved in toluene (5 ml) and thereto are added tris(dibenzylideneacetone)dipalladium (32 mg), 2-(di-tert-butylphosphino)biphenyl (42 mg), sodium tert-butoxide (50 mg) and ethyl piperidine-4-carboxylate (80 μl) and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=1:0→17:3) to give ethyl 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethoxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-piperidine-4-carboxylate (121 mg). MS (m/z): 679 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-ethoxy-5-trifluoromethyl-benzyl)-amine | 210 mg | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)OCC)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C23H17BrF9N3O
reactant | 2-(di-tert-butylphosphino)biphenyl | 42 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 50 mg | CC(C)([O-])C.[Na+]
reactant | ethyl piperidine-4-carboxylate | 80 μl | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethoxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-piperidine-4-carboxylate | 121 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OCC)C=C(C1)C(F)(F)F)(F)F | C31H31F9N4O3
